US05101048
Preparation of 3,5-bis(trifluoromethyl)phenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside (Example 15a)
If the procedure described in Preparation I is followed starting from 1.6 g (6.5.10-3 mol) of 3,5-bis(trifluoromethyl)benzenethiol, 1.64 g (6.5.10-3 mol) of mercuric cyanide, Hg(CN)2, and 2.54 g (7.5.10-3 mol) of 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide, 1.2 g (yield: 35.7%) of the expected product are obtained.

reactant | 3,5-bis(trifluoromethyl)benzenethiol | 1.6 g | FC(C=1C=C(C=C(C1)C(F)(F)F)S)(F)F | C8H4F6S
reactant | Hg(CN)2 | 1.64 g | [Hg](C#N)C#N
reactant | 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide | 2.54 g | C(C)(=O)O[C@H]1[C@H](SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
product | 3,5-bis(trifluoromethyl)phenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside | 1.2 g, yield: 35.7% | C(C)(=O)O[C@H]1[C@H](SC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C19H18F6O6S2
